US08957070B2
7-Nitro-N-[2-(tritylthio)ethyl]-1H-indole-2-carboxamide
A solution of 7-nitro-1H-indole-2-carboxylic acid (4.4 g), 1H-1,2,3-benzotriazol-1-ol (3.8 g), N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride (4.8 g), 2-(tritylthio)ethylamine hydrochloride (7.4 g) and triethylamine (3.5 mL) in N,N-dimethylformamide (50 mL) was stirred at room temperature for 4 hr. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried (MgSO4) and concentrated. The obtained residue was crystallized from diethyl ether-hexane to give the title compound (10.1 g, yield 95%) as yellow crystals.

reactant | 7-nitro-1H-indole-2-carboxylic acid | 4.4 g | [N+](=O)([O-])C=1C=CC=C2C=C(NC12)C(=O)O | C9H6N2O4
reactant | 1H-1,2,3-benzotriazol-1-ol | 3.8 g | N1(N=NC2=C1C=CC=C2)O | C6H5N3O
reactant | N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride | 4.8 g | Cl.CN(CCCN=C=NCC)C
reactant | 2-(tritylthio)ethylamine hydrochloride | 7.4 g | Cl.C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)SCCN
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
solvent | triethylamine | 3.5 mL | C(C)N(CC)CC | C6H15N
product | 7-Nitro-N-[2-(tritylthio)ethyl]-1H-indole-2-carboxamide | 10.1 g, yield 95% | [N+](=O)([O-])C=1C=CC=C2C=C(NC12)C(=O)NCCSC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C30H25N3O3S
